US03970454
a. Preparation of N-methyl-8-hydroxyquinolinium methylsulfate
Into a 2-liter three-neck flask provided with a mechanical agitator, with a reflux-condenser and calcium chloride tube, and with a dropping funnel, one introduces 145 g of 8-hydroxyquinoline (i.e. 1 mole) and 200 ml of dimethyl acetamide. After dissolution of the 8-hydroxyquinoline, one cools the reaction mixture with a bath of ice water and one adds, drop by drop, by means of the dropping funnel, 126 g of freshly distilled methylsulfate (i.e. 1 mole). Shortly after the completion of the addition, a light yellow compound crystallizes little by little. One continues the agitation for 2 hours after the introduction of the methylsulfate and then leaves the mixture to rest overnight in a brine bath. The quaternary salt which is formed is dried, washed with anhydrous ether and recrystallized in methanol. Weight obtained = 219 g; Melting point = 158°C; Yield = 81%.

reactant | 8-hydroxyquinoline | 1 mole, 145 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | methylsulfate | 1 mole | COS(=O)(=O)[O-]
solvent | dimethyl acetamide | 200 ml | CC(=O)N(C)C | C4H9NO
product | N-methyl-8-hydroxyquinolinium methylsulfate | Yield = 81% | COS(=O)(=O)[O-].C[N+]1=CC=CC2=CC=CC(=C12)O | InChI=1S/C10H9NO.CH4O4S/c1-11-7-3-5-8-4-2-6-9(12)10(8)11;1-5-6(2,3)4/h2-7H,1H3;1H3,(H,2,3,4)
